US04241052
3.3 g of 1-(2-chloroethyl)-3-furfuryl-3-(D-ribofuranosyl)urea and 5.0 of nitrogen tetroxide gas are treated in the same manner as described in Example 31-(2). 2.2 g of 1-(2-chloroethyl)-1-nitroso-3-furfuryl-3-(D-ribofuranosyl)urea are thereby obtained as yellow powder.

reactant | 1-(2-chloroethyl)-3-furfuryl-3-(D-ribofuranosyl)urea | 3.3 g | ClCCNC(=O)N(C1[C@H](O)[C@H](O)[C@H](O1)CO)CC1=CC=CO1 | C13H19ClN2O6
reactant | nitrogen tetroxide | [N+](=O)([N+](=O)[O-])[O-] | N2O4
product | 1-(2-chloroethyl)-1-nitroso-3-furfuryl-3-(D-ribofuranosyl)urea | 2.2 g | ClCCN(C(=O)N(C1[C@H](O)[C@H](O)[C@H](O1)CO)CC1=CC=CO1)N=O | C13H18ClN3O7
